US07402589B2
Preparation of (2-chloropyrimidin-4-yl)-(4-methoxyphenyl)-amine (1):
Sodium bicarbonate (1.26 g, 11.9 mmol) is added to a slurry of 2,4-dichloropyrimidine (1.01 g, 6.78 mmol) in ethanol (30 mL) at 0° C. 4-Methoxyaniline (840 mg, 6.82 mmol) is added and the slurry stirred at 0° C. for 6 hours. The reaction mixture is warmed to room temperature for 1 hour, then diluted with water (50 mL) and extracted three times with CHCl3 (50 mL). The combined organic layers are washed with water (50 mL) and brine (50 mL), dried over sodium sulfate, filtered and concentrated in vacuo to give crude product which is purified over silica (10% Et2O/CH2Cl2) to afford 1.20 g (75% yield) of the desired product as a white solid. 1H NMR (300 MHz, CDCl3) δ 8.05 (d, J=5.8 Hz, 1H), 7.20 (d, J=9.0 Hz, 2H), 7.05 (br s, 1H), 6.94 (d, J=9.0 Hz, 2H), 6.41 (d, J=5.8 Hz, 1H), 3.83 (s, 3H); MS (ESI) m/z 236 (M+1).

reactant | Sodium bicarbonate | 11.9 mmol, 1.26 g | C([O-])(O)=O.[Na+]
reactant | 2,4-dichloropyrimidine | 6.78 mmol, 1.01 g | ClC1=NC=CC(=N1)Cl | C4H2Cl2N2
reactant | 4-Methoxyaniline | 6.82 mmol, 840 mg | COC1=CC=C(N)C=C1 | C7H9NO
solvent | ethanol | 30 mL | C(C)O | C2H6O
solvent | water | 50 mL | O | H2O
product | (2-chloropyrimidin-4-yl)-(4-methoxyphenyl)-amine | 1.20 g, 75% yield | ClC1=NC=CC(=N1)NC1=CC=C(C=C1)OC | C11H10ClN3O
